US05232940
A stirred mixture of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole (0.7 g) and potassium thiocyanate (0.55 g) in methanol (15 ml) was treated with a solution of bromine (0.3 g) in methanol (2 ml) at 0°-5° C. Stirring was maintained at this temperature for 1.5 hours, and the mixture was poured onto ice water, and brought to pH 9 by the addition of sodium carbonate. The product was filtered, washed with water and dried. Purification by chromatography on silica (Merck, 230-400 mesh, 0.7 kg cm-2) eluting with dichloromethane gave 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-thiocyanato-3-trifluoromethylpyrazole, in the form of a white solid, m.p. 49°-50° C.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole | 0.7 g | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F | C11H5Cl2F6N3
reactant | potassium thiocyanate | 0.55 g | [S-]C#N.[K+]
reactant | bromine | 0.3 g | BrBr | Br2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
product | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-thiocyanato-3-trifluoromethylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)SC#N | C12H4Cl2F6N4S
